US03930837
3-chloro-5-nitro-isoquinoline (20.9 g., 0.1170 mole, prepared according to the method of Example 1 hereinabove) was suspended in glacial acetic acid (160 ml), and water (160 ml) was then added while the temperature of the mixture was being raised to 60°C. Keeping the temperature between 60° and 70°C, powdered iron (15.2 g) was added slowly to the stirred mixture, and stirring was continued for 2 hours after addition of the iron was completed. The reaction mixture was allowed to stand overnight, and was then made alkaline with 20% w/v aqueous sodium hydroxide solution, and filtered. The residue was dried overnight, over silica gel in a vacuum oven at 50°C. The dried cake was then broken up and extracted -- three times with ether under reflux. The ether extract was boiled with charcoal, dried over anhydrous sodium sulphate, filtered, and the ether evaporated off to yield 9.25 g of 3-chloro-5-amino-isoquinoline of m.p. 176° - 177°C. Further ether extraction of the filter cake yielded another 4.2 g of 3-chloro-5-amino-isoquinoline of m.p. 175° - 177°C.

reactant | 3-chloro-5-nitro-isoquinoline | ClC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | water | 160 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 15.2 g | [Fe] | Fe
product | 3-chloro-5-amino-isoquinoline | 9.25 g | ClC=1N=CC2=CC=CC(=C2C1)N | C9H7ClN2
